US05965578
Step B: Preparation of Ethyl N-tert-butoxycarbonyl-3-oxo-4-(3-methylbenzyl)piperidine-4-carboxylate
To a cold (0° C.) slurry of sodium hydride (0.29 g, 12 mmol) in anhydrous dimethylformamide (50 mL), a solution of ethyl N-tert-butoxycarbonyl-3-oxo-piperidine-4-carboxylate (2.73 g, 10 mmol) in DMF (10 mL) was added. The mixture was stirred at 0° C. for 30 min., and at room temp. for 30 min. The resultant solution was cooled back to 0° C. and treated with 3-methylbenzyl bromide (1.63 mL, 12 mmol). The reaction mixture was stirred at room temp. overnight and concentrated under vacuum. The residue was partitioned between ethyl acetate and aqueous sodium bicarbonate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 17.5% ethyl acetate in hexane. Collection and concentration of appropriate fractions provided the title compound.

reactant | sodium hydride | 12 mmol, 0.29 g | [H-].[Na+]
reactant | ethyl N-tert-butoxycarbonyl-3-oxo-piperidine-4-carboxylate | 10 mmol, 2.73 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)C(=O)OCC)=O | C13H21NO5
reactant | 3-methylbenzyl bromide | 12 mmol, 1.63 mL | CC=1C=C(CBr)C=CC1 | C8H9Br
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Ethyl N-tert-butoxycarbonyl-3-oxo-4-(3-methylbenzyl)piperidine-4-carboxylate | C(C)(C)(C)OC(=O)N1CC(C(CC1)(C(=O)OCC)CC1=CC(=CC=C1)C)=O | C21H29NO5
